US04035188
I. [β-(β-ethoxy)ethoxy]ethyl bromide
215 g (1.6 mole) of diethylene glycol monoethyl ether was introduced into a 1 l three-necked flask and slightly warmed by a mantle heater. Then, 135.4 g (0.5 mole) of phosphorus tribromide was slowly added dropwise over a period of 2 hours. The reaction mixture was cooled and poured into 500 cc of water. The desired oily product accumulated at the bottom was extracted with ether and the extract was washed with 100 cc of 10% sulfuric acid two times and with 10% sodium carbonate two times. After further washing with water two times, the extract was dried with potassium carbonate to remove ether, followed by distillation of the residue oil under reduced pressure. After removing the inital fraction of low boiling point, fractions having boiling point of 96° - 98° C/30 mmHg were collected. The yield of (I) was about 40%.

reactant | diethylene glycol monoethyl ether | 1.6 mole, 215 g | C(C)OCCOCCO | C6H14O3
reactant | phosphorus tribromide | 0.5 mole, 135.4 g | P(Br)(Br)Br | Br3P
solvent | water | 500 cc | O | H2O
product | [β-(β-ethoxy)ethoxy]ethyl bromide | CCOCCOCCBr | C6H13BrO2
